US08735436B2
Preparation of tert-butyl 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate
tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate (480 mg, 1.11 mmol) was added dropwise over 30 minutes to a solution of lithium diisopropylamine (LDA) (2.0 M, 750 μL, 1.50 mmol) in dry tetrahydrofuran (10 mL) held at −70° C. under nitrogen. The reaction mixture was stirred for 30 minutes. Ethyl iodide (312 mg, 2.00 mmol) was added in one portion and the resulting mixture was warmed to ambient temperature during 1 hour. The reaction mixture was stirred at ambient temperature for 17 hours. The mixture was poured into saturated NH4Cl (aq.) (50 mL) and extracted with heptane (2×50 mL). The combined organic phases was washed succesively with brine (50 mL), 0.25 M HCl (50 mL) and brine (50 mL), dried (MgSO4), filtered and concentrated. The residue was purified by flash chromatography on silica gel using increasingly polar mixtures of heptane and ethyl acetate (100:0→95:5) as eluent. Concentration of the appropriate fractions afforded 343 mg (67% yield) of the title compound as an oil. 1H NMR (300 MHz, CDCl3): δ 0.84 (t, 6H), 0.99 (td, 3H), 1.35-1.55 (m, 11H), 1.54-1.69 (m, 2H), 1.68-1.87 (m, 4H), 1.99-2.24 (m, 4H), 2.74-2.99 (m, 8H), 3.31 (t, 2H), 5.23-5.52 (m, 10H); MS (electro spray): 401.3 [M−H]−

reactant | tert-Butyl 2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate | 1.11 mmol, 480 mg | C(CCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC)OC(C(=O)OC(C)(C)C)CC | C28H46O3
reactant | lithium diisopropylamine | 1.50 mmol, 2.0 M, 750 μL | C(C)(C)NC(C)C.[Li]
reactant | Ethyl iodide | 2.00 mmol, 312 mg | C(C)I | C2H5I
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-ethyl-2-((5Z,8Z,11Z,14Z,17Z)-icosa-5,8,11,14,17-pentaen-1-yloxy)butanoate | 343 mg, 67% yield | C(C)C(C(=O)OC(C)(C)C)(CC)OCCCC\C=C/C\C=C/C\C=C/C\C=C/C\C=C/CC | C30H50O3
